US08871753B2
Step A: N-(3-Aminophenyl)-1-(3-nitrophenyl)methanesulfonamide hydrochloride
tert-Butyl (3-{[(3-nitrobenzyl)sulfonyl]amino}phenyl)carbamate (0.50 g, 1.2 mmol) and 4.0 M of hydrogen chloride were dissolved in 1,4-dioxane (3 mL) and stirred at rt for 2 h. The solvent was removed under vacuum and the white powder product (0.37 g, 98%) as a HCl salt was used in the next step without further purification. LCMS for C13H13N3O4S (M+H)+: m/z=308.0.

reactant | tert-Butyl (3-{[(3-nitrobenzyl)sulfonyl]amino}phenyl)carbamate | 1.2 mmol, 0.50 g | [N+](=O)([O-])C=1C=C(CS(=O)(=O)NC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C18H21N3O6S
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(3-Aminophenyl)-1-(3-nitrophenyl)methanesulfonamide hydrochloride | Cl.NC=1C=C(C=CC1)NS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-] | InChI=1S/C13H13N3O4S.ClH/c14-11-4-2-5-12(8-11)15-21(19,20)9-10-3-1-6-13(7-10)16(17)18;/h1-8,15H,9,14H2;1H
